US05004741
3N-(2,3-Dihydro-1,8-dimethyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-1H-indole-2-carboxamide
Equimolar amounts of 3-(R,S)-amino-1,3-dihydro-1,8-dimethyl-5-phenyl-2H-1,4-benzodiazepin-2-one, indole-2-carbonyl chloride, and triethylamine were mixed at room temperature and stirred 30 minutes. Flash chromatography of the reaction solution on silica gel (7% Et2O in CH2Cl2) provided the title compound as a crystalline solid from Et2O: m.p. 291°-294° C.

reactant | 3-(R,S)-amino-1,3-dihydro-1,8-dimethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC(=C2)C)C)=O | C17H17N3O
reactant | indole-2-carbonyl chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | Et2O | CCOCC | C4H10O
product | (2,3-Dihydro-1,8-dimethyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-1H-indole-2-carboxamide | CN1C(C(N=C(C2=C1C=C(C=C2)C)C2=CC=CC=C2)N2C(=CC1=CC=CC=C21)C(=O)N)=O | C26H22N4O2
